US05753679
0.31 g (0.0015 mol) of 1-(4-methyl-benzyl)-piperidin-4-ol and 0.52 ml (0.00375 mol) of triethylamine were dissolved in 15 ml of toluene, treated with 0.25 ml (0.00215 mol) of benzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:4). 0.295 g (64%) of 1-(4-methyl-benzyl)-piperidin-4-yl benzoate was obtained as a yellow oil.

reactant | 1-(4-methyl-benzyl)-piperidin-4-ol | 0.0015 mol, 0.31 g | CC1=CC=C(CN2CCC(CC2)O)C=C1 | C13H19NO
reactant | triethylamine | 0.00375 mol, 0.52 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.00215 mol, 0.25 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-methyl-benzyl)-piperidin-4-yl benzoate | 0.295 g, 64% | C(C1=CC=CC=C1)(=O)OC1CCN(CC1)CC1=CC=C(C=C1)C | C20H23NO2
